US07842836B2
5,6-difluoro-N1-(2-fluoro-4-iodophenyl)-3-methoxybenzene-1,2-diamine
To a stirred solution of (2,3-difluoro-5-methoxy-6-nitro-phenyl)-(2-fluoro-4-iodo-phenyl)-amine (0.57 gm, 1.34 mmol) ethanol (20 ml), ammonium chloride (1.18 gm, 20.16 mmol) and iron powder (1.15 gm, 21.44 mmol) were added. This reaction mixture was kept stirring at reflux for 16 hours. The reaction mixture was allowed to cool and was filtered over celite and concentrated to dryness. The residue obtained was taken into ethyl acetate and was washed with water. The organic layer was dried over sodium sulfate and further purified by crystallization from ethanol to provide an off-white solid (0.47 gm, yield: 90.3%).

reactant | (2,3-difluoro-5-methoxy-6-nitro-phenyl)-(2-fluoro-4-iodo-phenyl)-amine | 1.34 mmol, 20 ml, 0.57 gm | FC1=C(C(=C(C=C1F)OC)[N+](=O)[O-])NC1=C(C=C(C=C1)I)F | C13H8F3IN2O3
reactant | ammonium chloride | 20.16 mmol, 1.18 gm | [Cl-].[NH4+]
catalyst | iron | 21.44 mmol, 1.15 gm | [Fe] | Fe
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)-3-methoxybenzene-1,2-diamine | 0.47 gm, yield: 90.3% | FC1=CC(=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N)OC | C13H10F3IN2O
